US08198279B2
1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(2-fluoro-4-(3-oxo-3,4-dihydropyrido[3,2-b]pyrazin-8-yloxy)phenyl)urea (AA-018)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one and 3-tert-butyl-5-isocyanato-1-p-tolyl-1H-pyrazole to afford the title compound as an off-white solid. Yield: 35 mg (42%).

reactant | 8-(4-amino-3-fluorophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one | NC1=C(C=C(OC2=CC=NC=3NC(C=NC32)=O)C=C1)F | C13H9FN4O2
reactant | 3-tert-butyl-5-isocyanato-1-p-tolyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=C(C=C1)C | C15H17N3O
product | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(2-fluoro-4-(3-oxo-3,4-dihydropyrido[3,2-b]pyrazin-8-yloxy)phenyl)urea | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=C1N=CC(N2)=O)F)C2=CC=C(C=C2)C | C28H26FN7O3
